US08372867B2
To a solution of 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]benzaldehyde (0.30 g), 2-aminomethylpyridine (0.09 g) and trimethylsilylcyanide (0.08 g) in tetrahydrofuran (5 mL), lithium perchlorate (0.8 g) was added, and the mixture was then stirred for one hour at room temperature. After the reaction mixture was diluted with t-butylmethylether, the solution was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel chromatography to obtain {4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]phenyl}[(pyridin-2-ylmethyl)amino]acetonitrile (0.15 g).

reactant | 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]benzaldehyde | 0.30 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=O)C=C1)C(F)(F)F | C17H10Cl2F3NO2
reactant | 2-aminomethylpyridine | 0.09 g | NCC1=NC=CC=C1 | C6H8N2
reactant | trimethylsilylcyanide | 0.08 g | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium perchlorate | 0.8 g | Cl(=O)(=O)(=O)[O-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | {4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]phenyl}[(pyridin-2-ylmethyl)amino]acetonitrile | 0.15 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)C(C#N)NCC1=NC=CC=C1)C(F)(F)F | C24H17Cl2F3N4O
